US05661160
Synthesis of 1-[2-[3-(3,4-dichloro-phenyl)-1-(2-methoxy-benzoyl]-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide
2-[3-(3,4-Dichloro-phenyl)-1-(2-methoxybenzoyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate (323 mg, 0.68 mmol) was dissolved in THF (4 mL) and 4-phenyl-piperidine-4-carboxylic acid amide hydrochloride (165 mg, 0.69 mmol), water (1 mL), and sodium bicarbonate (105 mg, 1.25 mmol) were added and the solution was heated at reflux for 21 hours. The solution was concentrated in vacuo. The aqueous phase was extracted with dichloromethane (3×) and the organic phase was washed with water, dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was chromatographed on silica gel (30 g) with a gradient from ethyl acetate to 6% methanol in dichloromethane to give 280 mg (73%) of the title compound.

reactant | 2-[3-(3,4-Dichloro-phenyl)-1-(2-methoxybenzoyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate | 0.68 mmol, 323 mg | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=C(C=CC=C1)OC)=O)CCCS(=O)(=O)[O-]
reactant | 4-phenyl-piperidine-4-carboxylic acid amide hydrochloride | 0.69 mmol, 165 mg | Cl.C1(=CC=CC=C1)C1(CCNCC1)C(=O)N
reactant | water | 1 mL | O | H2O
reactant | sodium bicarbonate | 1.25 mmol, 105 mg | C([O-])(O)=O.[Na+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 1-[2-[3-(3,4-dichloro-phenyl)-1-(2-methoxy-benzoyl]-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide | 280 mg, 73% | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=C(C=CC=C1)OC)=O)CCN1CCC(CC1)(C(=O)N)C1=CC=CC=C1 | C32H35Cl2N3O3
